US06326381B1
(R)-Cyclohexanecarboxylic Acid{1-benzyl-2-[4-(2-methoxy-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-ethyl}-amide
To a solution of Boc-D-phenylalanine (2.0 g, 7.54 mmol), DEAC (1.45 g 7.54 mmol), and HOBT (1.53 g, 11.3 mmol) in DMF (20 mL) at 0° C. was added of 1,2,3,6-tetrahydro-4-(2-methoxyphenyl)pyridine (1.87 g, 8.29 mmol), followed by the addition of NMO (1.4 mL, 12.8 mmol). The mixture was stirred under nitrogen for 16 hours at ambient temperature, diluted with ethyl acetate (100 mL) and washed with 0.1N HCl (25 mL), saturated NaHCO3 (25 mL), H2O (25 mL) and brine (25 mL). The organic phase was dried over anhydrous Na2SO4, filtered and concentrated under vacuum to yield the required product (100% yield). This was stirred in 40 mL 4.0M HCl/dioxane overnight and concentrated to afford the hydrochloride salt of the deprotected amine. The amide was dissolved in THF (50 mL) and reduced at 0° C. by the addition or 1.0M LAH/THF (23 mL). After stirring overnight at room temperature, the reaction was quenched with the addition of saturated NH4Cl, filtered through celite, dried over anhydrous Na2SO4, filtered and concentrated to yield the required product. Cyclohexanecarboxylic acid chloride (0.61 g, 4.13 mmol) was added dropwise to a solution of the amine (1.21 g, 3.75 mmol) and triethylamine (1.1 mL, 7.5 mmol) in dichloromethane (20 mL) at 0° C. The mixture was allowed to stir under nitrogen overnight at ambient temperature, concentrated under vacuum, diluted with ethyl acetate (50 mL) and washed with H2O (50 mL) then brine (25 mL). The organic phase was dried over anhydrous Na2SO4, filtered and concentrated under vacuum to yield crude product. Purification by flash chromatography (elution with ethyl acetate/hexanes) yielded 0.47 g of the above titled free base. The fumarate salt was prepared and crystallized yielding 0.28 g of the title compound as a pale yellow solid, m.p. 146-148° C. [α]25/D=−11.95° (MeOH, 8.4 mg/mL)

reactant | Boc-D-phenylalanine | 7.54 mmol, 2.0 g | C(=O)(OC(C)(C)C)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | DEAC | 7.54 mmol, 1.45 g | CC[Al](CC)Cl
reactant | HOBT | 11.3 mmol, 1.53 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1,2,3,6-tetrahydro-4-(2-methoxyphenyl)pyridine | 8.29 mmol, 1.87 g | COC1=C(C=CC=C1)C=1CCNCC1 | C12H15NO
reactant | NMO | 12.8 mmol, 1.4 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (R)-Cyclohexanecarboxylic Acid{1-benzyl-2-[4-(2-methoxy-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-ethyl}-amide | 100% yield | C(C1=CC=CC=C1)[C@H](CN1CCC(=CC1)C1=C(C=CC=C1)OC)NC(=O)C1CCCCC1 | C28H36N2O2
